US06492562B1
A mixture of chlorzoxazone, 3-(t-butoxycarbonylamino)-1-propene, palladium diacetate, tritolylphosphine, and acetonitrile is cooled to −78° C., degassed, and sealed in a reaction tube. The mixture is kept at 50° C. with stirring for 60 hours, then cooled and opened and the acetonitrile removed under vacuum. The residue is dissolved in ethyl acetate and washed successively with 5% aqueous NaHCO3 and brine. After drying over Mg2SO4, the mixture is filtered and evaporated. Silica gel chromatography gives 5-(3-(t-butoxycarbonylamino)-1-propenyl)-2-benzoxazolone.

reactant | chlorzoxazone | C1=CC2=C(C=C1Cl)NC(=O)O2 | C7H4ClNO2
reactant | 3-(t-butoxycarbonylamino)-1-propene | C(C)(C)(C)OC(=O)NCC=C | C8H15NO2
reactant | tritolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium diacetate | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(3-(t-butoxycarbonylamino)-1-propenyl)-2-benzoxazolone | C(C)(C)(C)OC(=O)NCC=CC=1C=CC2=C(NC(O2)=O)C1 | C15H18N2O4
